US08748624B2
STEP B: tert-butyl 3-(5-(2-formylphenyl)picolinamido)propanoate
tert-Butyl 3-(5-bromopicolinamido)propanoate (1.0 g, 3.0 mmol), 2-formylphenylboronic acid (547 mg, 3.6 mmol), Pd(dppf)Cl2 (249 mg, 0.3 mmol), and K2CO3 (840 mg, 6.1 mmol) were dissolved in 1,4-dioxane (20 mL) and water (5 mL) and heated to 80° C. After 3 h the resulting mixture was cooled to room temperature, diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | tert-Butyl 3-(5-bromopicolinamido)propanoate | 3.0 mmol, 1.0 g | BrC=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C13H17BrN2O3
reactant | 2-formylphenylboronic acid | 3.6 mmol, 547 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | K2CO3 | 6.1 mmol, 840 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.3 mmol, 249 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(5-(2-formylphenyl)picolinamido)propanoate | C(=O)C1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C20H22N2O4
